US04762851
Decyl Pyroglutamate
To an ice cold suspension of pyroglutamic acid (1.3 g) and n-decanol (1.6 g) in dichloromethane (50 ml), dicyclohexylcarbodiimide (2.1 g) and 4-dimethylaminopyridine (0.1 g) were added. After stirring at ice bath temperature for 2 hours, the cooling bath was removed and the mixture was stirred at room temperature overnight. The dichloromethane was evaporated off. The residue was taken in ether and filtered. The filtrate was washed with 1N HCl, water, aqueous bicarbonate and water. It was then dried over Na2SO4 and evaporated. The residue weighed 2.75 g. It was chromatographed over silica gel. The pure decyl ester was eluted with ethylacetate-chloroform (1:4), 2.3 g m.p. 34°-35°.

reactant | pyroglutamic acid | 1.3 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | n-decanol | 1.6 g | C(CCCCCCCCC)O | C10H22O
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Decyl Pyroglutamate | N1[C@@H](CCC1=O)C(=O)OCCCCCCCCCC | C15H27NO3
